US07179819B2
To a stirred solution of N-Boc-2-(S)-benzoyloxymethyl-5-(S)-benzyloxy methylpyrrolidine (1.23 g, 2.89 mmol) in MeOH (30 ml) was added NaOH (1.0 M in water, 3.47 ml, 3.47 mmol) at rt, and the resulting mixture was stirred for 4 h. The mixture was neutralized with aq. 1N-HCl and concentrated in vacuo, then extracted with CHCl3. The organic layer was washed with brine, drying over anhydrous Na2SO4, then concentrated in vacuo. The residue was chromatographed on silica gel with hexane-EtOAc (3:1) as eluent to give N-Boc-5-(S)-hydroxymethyl-2-(S)-benzyloxymethyl pyrrolidine (847 mg, 91%) as a colorless oil. 1H-NMR (CDCl3) δ 1.41 (s, 9 H), 1.57 (br s, 1 H), 1.95–1.97 (m, 2 H), 2.05–2.18 (m, 1 H), 3.36 (t, J=8.4 Hz, 1 H), 3.56–3.62 (m, 2 H), 3.67–3.72 (m, 2 H), 3.95 (br s, 1 H), 4.03 (br s, 1 H), 4.51 (s, 1 H), 7.28–7.37 (m, 5H); MS (FAB) m/z, 322 (M++H).

reactant | N-Boc-2-(S)-benzoyloxymethyl-5-(S)-benzyloxy methylpyrrolidine | 2.89 mmol, 1.23 g | C(=O)(OC(C)(C)C)N1[C@@H](CC[C@H]1COCC1=CC=CC=C1)COC(C1=CC=CC=C1)=O | C25H31NO5
reactant | NaOH | 3.47 mmol, 1.0 M, 3.47 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | 30 ml | CO | CH4O
product | N-Boc-5-(S)-hydroxymethyl-2-(S)-benzyloxymethyl pyrrolidine | 847 mg, 91% | C(=O)(OC(C)(C)C)N1[C@@H](CC[C@H]1CO)COCC1=CC=CC=C1 | C18H27NO4
